US04916253
Into a three-necked 50 ml flask equipped with a condenser and a stirrer, 1.9 g (33 mmol) of spray-dried potassium fluoride (purchased from Laporte Industry), 1.1 g (2.5 mmol) of tetraphenyl phosphonium bromide, 0.7 g (2.5 mmol) of 18-crown-6 and 6.4 g (25 mmol) of ethyl 3,4,5-trichlorobenzoate were introduced, and the mixture was heated in an oil bath and reacted under a nitrogen atmosphere at 210° C. for 2 hours. The reactor was cooled, and the mixture was diluted with 40 ml of toluene. Inorganic salts were filtered off, and toluene was concentrated to give the residue, which was distilled under reduced pressure to obtain 3.4 g of ethyl 3,5-dichloro-4-fluorobenzoate. The yield was 57%. The physical properties are shown below.

reactant | potassium fluoride | 33 mmol, 1.9 g | [F-].[K+]
reactant | 18-crown-6 | 2.5 mmol, 0.7 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | ethyl 3,4,5-trichlorobenzoate | 25 mmol, 6.4 g | ClC=1C=C(C(=O)OCC)C=C(C1Cl)Cl | C9H7Cl3O2
catalyst | tetraphenyl phosphonium bromide | 2.5 mmol, 1.1 g | [Br-].C1(=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 3,5-dichloro-4-fluorobenzoate | 3.4 g, yield was 57% | ClC=1C=C(C(=O)OCC)C=C(C1F)Cl | C9H7Cl2FO2
